US04692448
A mixture of 4-(methylthio)benzyl chloride (28.6 g), 1-(2-hydroxyethyl)piperazine (21.6 g), triethylamine (16.8 g), and ethanol (250 ml) is stirred at room temperature for 5 hours. The ethanol is then removed in vacuo and water added to the residue. The product is extracted with ether, dried, and the ether evaporated to give 31.6 g of 1-(2-hydroxyethyl)-4-[4-(methylthio)benzyl] piperazine as an orange oil, suitable for use in the next reaction.

reactant | 4-(methylthio)benzyl chloride | 28.6 g | CSC1=CC=C(CCl)C=C1 | C8H9ClS
reactant | 1-(2-hydroxyethyl)piperazine | 21.6 g | OCCN1CCNCC1 | C6H14N2O
reactant | triethylamine | 16.8 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-(2-hydroxyethyl)-4-[4-(methylthio)benzyl] piperazine | 31.6 g | OCCN1CCN(CC1)CC1=CC=C(C=C1)SC | C14H22N2OS
